US06100405
9,9-Diethyl-N, N-diphenyl-7-(2-benzoazolyl)-2-fluoreneamine
A mixture of cesium carbonate (6.5 g. 20 mmol, dried at 190° C. under 1 mm), 9,9-diethyl-N,N-diphenyl-7-bromo-2-fluoreneamine (7.4 g., 16 mmol), benzoxazole (2.4 g., 20 mmol), copper(l) iodide (0.38 g., 2 mmol), palladium (II) acetate (0.075 g., 0.334 mmol), triphenyl phosphine (0.15 g., 0.6 mmol) and DMF (30 ml) was kept at 115° C. for 18 hours under an atmosphere of nitrogen, then cooled, diluted with toluene and filtered. The filtrate was washed with water, dried and concentrated. The residue was chromatographed on alumina. Earlier fractions gave 0.25 g., m.p. 102-104° C., identified as 2-phenyl benzoxazole (m/z 195). Elution with heptane-toluene (3:1), followed by crystallization, gave 5.14 g. (65% yield) of bright yellow crystals, m.p. 193-194° C. A sample for analysis was obtained by sublimation under 0.5 mm vacuum at a bath temperature of 210° C. Mass Spec: mlz 506 (M+). Analysis: Calculated for C36H30N2O: C, 85.34; H, 5.97; N, 5.53. Found: C, 85.25; H, 5.97; N, 5.55.

reactant | cesium carbonate | 20 mmol, 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-diethyl-N,N-diphenyl-7-bromo-2-fluoreneamine | 16 mmol, 7.4 g | C(C)C1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C1=CC=CC=C1)C1=CC=CC=C1)Br)CC | C29H26BrN
reactant | benzoxazole | 20 mmol, 2.4 g | O1C=NC2=C1C=CC=C2 | C7H5NO
reactant | iodide | 2 mmol, 0.38 g | [I-]
reactant | triphenyl phosphine | 0.6 mmol, 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-phenyl benzoxazole | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=C2 | C13H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper | [Cu] | Cu
catalyst | palladium (II) acetate | 0.334 mmol, 0.075 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 9,9-Diethyl-N, N-diphenyl-7-(2-benzoazolyl)-2-fluoreneamine | 65% yield | C(C)C1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C1=CC=CC=C1)C1=CC=CC=C1)C=1NC2=C(C1)C=CC=C2)CC | C37H32N2
